US07727988B2
3-Benzoyl-1-(4-chloro-butyl)-5-(2-fluoro-pyridin-3-yl)-1H-pyrimidine-2, 4-dione (Prep130)
3-Benzoyl-1-(4-chloro-butyl)-5-iodo-1H-pyrimidine-2,4-dione (Prep129, 614 mg, 1.42 mmol) was dissolved in degassed DME-water solution (5-1, 35 ml). 2-Fluoro-pyridine 3-boronic acid (250 mg, 1.77 mmol), Na2CO3 (301 mg, 2.84 mmol), 2-(dicyclohexylphosphino)biphenyl (99 mg, 0.28 mmol) and Pd(PPh3)4 (328 mg, 0.28 mmol) were added and the mixture was refluxed for 3 hours. The solvents were evaporated under vacuum and the crude was partitioned between ethyl acetate and water. The organic phase was dried (Na2SO4) and evaporated; the crude (0.9 g, yellow oil) was purified by flash chromatography with ethyl acetate-petroleum ether (1-1) to give the title compound as yellow oil (310 mg, 54% yield).

reactant | 3-Benzoyl-1-(4-chloro-butyl)-5-iodo-1H-pyrimidine-2,4-dione | 1.42 mmol, 614 mg | C(C1=CC=CC=C1)(=O)N1C(N(C=C(C1=O)I)CCCCCl)=O | C15H14ClIN2O3
reactant | 2-Fluoro-pyridine 3-boronic acid | 1.77 mmol, 250 mg | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | Na2CO3 | 2.84 mmol, 301 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.28 mmol, 99 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
solvent | DME water | 35 ml | COCCOC.O
catalyst | Pd(PPh3)4 | 0.28 mmol, 328 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Benzoyl-1-(4-chloro-butyl)-5-(2-fluoro-pyridin-3-yl)-1H-pyrimidine-2, 4-dione | 310 mg, 54% yield | C(C1=CC=CC=C1)(=O)N1C(N(C=C(C1=O)C=1C(=NC=CC1)F)CCCCCl)=O | C20H17ClFN3O3
